US05189054
Dissolve 4-nitro-2-aminobenzoic acid (500 mg, 2.75 mmol) in tetrahydrofuran (10 mL). Add triphenylphosphine (730 mg, 2.75 mL) and N-hydroxysuccinimide (316 mg, 2.75 mmol). Add a solution of diethylazodicarboxylate (0.433 mL,2.75 mmol) and stir at room temperature under nitrogen for 10 minutes. Add tert-butylamine (1.1 mL, 5.5 mmol) in tetrahydrofuran (5 mL) directly to the reaction to yield after workup the 4-nitro-2-amino-tert-butylbenzamide.

reactant | 4-nitro-2-aminobenzoic acid | 2.75 mmol, 500 mg | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)N | C7H6N2O4
reactant | triphenylphosphine | 2.75 mL, 730 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxysuccinimide | 2.75 mmol, 316 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | diethylazodicarboxylate | 2.75 mmol, 0.433 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | tert-butylamine | 5.5 mmol, 1.1 mL | C(C)(C)(C)N | C4H11N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-nitro-2-amino-tert-butylbenzamide | [N+](=O)([O-])C1=C(C(=C(C(=O)N)C=C1)N)C(C)(C)C | C11H15N3O3
